US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.34, 7.21, 5.40, 4.54, 2.55, 2.09, 1.95, 1.28; 13C NMR (100 MHz, CDCl3) δ 152.49, 150.66, 141.49, 138.29, 138.21, 129.63, 129.27, 127.64, 126.65, 124.90, 60.81, 49.31, 29.89, 28.87, 29.39, 21.46, 20.32, 14.61, 11.26. (MS/CI) calcd for C18H22BrN3+H 360.3, found 360.3.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=CC=CC=C12 | C18H23N3
product | 5-bromo-3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=CC=CC=C12)CC | C18H22BrN3
